US09166177B2
An excess of 1.6M n-BuLi in hexane (14 mL, 22.3 mmol) was added to a solution of 3-bromo-9-(diberizo[b,d]thiophen-4-yl)-9H-carbazole (8.7 g, 20.3 mmol) in 100 ml dry tetrahydrofuran at −78° C. under N2. The reaction mixture was then maintained at 0° C. for 1 h before cooling to −78° C. Trimethylborate (2.8 g, 26.4 mmol) was added dropwise; the solution was then warmed slowly to room temperature and stirred for 24 h. 2N HCl (50 ml) was added and then the mixture was stirred for a further 1 h. The reaction mixture was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was evaporated in vacuum, and the residue was crystallized from n-hexane to give the 9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazol-3-ylboronic acid 4.7 g (59%)

reactant | n-BuLi | 1.6M | [Li]CCCC
reactant | hexane | 22.3 mmol, 14 mL | CCCCCC | C6H14
reactant | 3-bromo-9-(diberizo[b,d]thiophen-4-yl)-9H-carbazole | 20.3 mmol, 8.7 g | BrC=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C24H14BrNS
reactant | Trimethylborate | 26.4 mmol, 2.8 g | COB(OC)OC | C3H9BO3
reactant | HCl | 2N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 9-(dibenzo[b,d]thiophen-4-yl)-9H-carbazol-3-ylboronic acid | 4.7 g, 59% | C1=CC=C(C=2SC3=C(C21)C=CC=C3)N3C2=CC=CC=C2C=2C=C(C=CC32)B(O)O | C24H16BNO2S
